US04927838
As in Example 112, (E)-3-(6-methoxy-3-pentylbenzofuran-2-yl)-2-propenoic acid methyl ester (4.25 g) in methanol (25 mL) was treated with 2N sodium hydroxide solution (15 mL) at reflux for 1.25 hours. The crude reaction product was crystallized from ethyl acetate to provide 3.6 g of (E)-3-(6-methoxy-3-pentylbenzofuran-2-yl)-2-propenoic acid, mp 146°-147° C. Anal. Calcd for C17H20O4 : C, 70.81; H, 6.99 Found: C, 70.51; H, 6.89

reactant | (E)-3-(6-methoxy-3-pentylbenzofuran-2-yl)-2-propenoic acid methyl ester | 4.25 g | COC(\C=C\C=1OC2=C(C1CCCCC)C=CC(=C2)OC)=O | C18H22O4
reactant | sodium hydroxide | 2N, 15 mL | [OH-].[Na+]
solvent | methanol | 25 mL | CO | CH4O
product | (E)-3-(6-methoxy-3-pentylbenzofuran-2-yl)-2-propenoic acid | 3.6 g | COC1=CC2=C(C(=C(O2)/C=C/C(=O)O)CCCCC)C=C1 | C17H20O4
